US06329547B1
A 1.0 M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (17 ml) is diluted with anhydrous tetrahydrofuran (81 ml) under a nitrogen atmosphere and dry ice cooling, and then a solution of tetraethyl methylenebis(phosphonate) (4.6 g) in anhydrous tetrahydrofuran (8 ml) is added dropwise thereto. The mixture is stirred under dry ice cooling for 30 minutes, and then a solution of methyl 4-formylbenzoate (2.64 g) in anhydrous tetrahydrofuran (12 ml) is added dropwise thereto. The mixture is stirred under dry ice cooling for 1.5 hours and further under ice cooling for 2.5 hours. Ethyl acetate is added to the reaction mixture. The organic layer is washed with water and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting precipitate is filtered off to give 4.1 g (86%) of diethyl (E)-2-[4-(methoxycarbonyl)phenyl]vinylphosphonate as crystals.

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
reactant | tetraethyl methylenebis(phosphonate) | 4.6 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | methyl 4-formylbenzoate | 2.64 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 81 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl (E)-2-[4-(methoxycarbonyl)phenyl]vinylphosphonate | 4.1 g, 86% | COC(=O)C1=CC=C(C=C1)/C=C/P(OCC)(OCC)=O | C14H19O5P
